US09108944B2
To a solution of 5-(8-oxo-5-(4-(piperazin-1-yl)phenyl)-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile (15 mg, 0.031 mmol) in dry DCM (2 mL) was added TEA (6 μl, 0.062 mmol) and (Boc)2O (10 mg, 0.046 mmol). The mixture was stirred at room temperature for 3 h and then concentrated. The residue was purified by column chromatography on silica gel (0 to 20% EtOAc in petroleum ether) to afford 10 mg of tert-butyl 4-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)phenyl)piperazine-1-carboxylate. 1H NMR (CDCl3, 300 MHz) δ 9.10 (d, 1H), 8.36 (d, 1H), 7.18 (d, 2H), 7.04 (d, 2H), 3.60 (m, 4H), 3.27 (m, 4H), 2.63-2.60 (m, 4H), 2.24-1.97 (m, 1H), 1.71-1.63 (m, 1H), 1.49 (s, 9H).

reactant | 5-(8-oxo-5-(4-(piperazin-1-yl)phenyl)-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile | 0.031 mmol, 15 mg | O=C1N(C(N(C12CCC2)C2=CC=C(C=C2)N2CCNCC2)=S)C=2C=C(C(=NC2)C#N)C(F)(F)F | C23H21F3N6OS
reactant | (Boc)2O | 0.046 mmol, 10 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)phenyl)piperazine-1-carboxylate | 10 mg | C(#N)C1=C(C=C(C=N1)N1C(N(C2(CCC2)C1=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)=S)C(F)(F)F | C28H29F3N6O3S
